US08877780B2
A mixture of 2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carbonitrile (1.00 g, 3.53 mmol), 4N HCl (4.5 mL), 10% Pd—C (0.1 g) and decolorizing carbon (0.06 g) in DMF (30 mL) was hydrogenated at 50 psi overnight. Water (5 mL) was added, and the reaction mixture was filtered through Celite. The filter was washed with methanol (10 mL). The filtrate was concentrated, and the residue was co-evaporated with ethanol (4×5 mL). The resulting solid was triturated with ethanol (5 mL) for 1 hour, filtered, washed with additional ethanol (10 mL), and dried to give 0.97 g of 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride as a white solid, in 85% yield; mp>260° C.; 1H NMR (DMSO-d6) δ 2.05-2.12 (m, 1H), 2.45-2.63 (m, 2H), 2.83-2.98 (m, 1H), 4.24 (s, 2H), 5.18 (dd, J=12.6 Hz, J=5.4 Hz, 1H), 7.96-8.03 (m, 2H), 8.11 (s, 1H), 8.73 (br, 3H), 11.15 (s, 1H); 13C NMR (DMSO-d6) δ 22.0, 30.9, 41.7, 49.1, 123.6, 123.9, 131.0, 131.5, 135.4, 141.5, 166.8, 166.9, 169.8, 172.7; Anal. Calcd for C14H14N3O4Cl+0.15H2O: C, 51.51; H, 4.42; N, 12.87. Found: C, 51.16; H, 4.40; N, 12.59.

reactant | 2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carbonitrile | 3.53 mmol, 1.00 g | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1=O)C#N)=O)=O | C14H9N3O4
reactant | HCl | 4N, 4.5 mL | Cl | ClH
reactant | Water | 5 mL | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
catalyst | Pd—C | 0.1 g | [Pd] | Pd
product | 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride | 0.97 g, 85% yield | Cl.NCC=1C=C2C(N(C(C2=CC1)=O)C1C(NC(CC1)=O)=O)=O | InChI=1S/C14H13N3O4.ClH/c15-6-7-1-2-8-9(5-7)14(21)17(13(8)20)10-3-4-11(18)16-12(10)19;/h1-2,5,10H,3-4,6,15H2,(H,16,18,19);1H
